US05183925
Under the conditions of example 2A, 25 g of 2-iodophenol and 22.16 g of 4-bromobutyric acid ethyl ester are reacted in 100 ml of dimethylformamide in the presence of 74 g of cesium carbonate, worked up, and 24.2 g of 4-(2-iodophenoxy)butyric acid ethyl ester with a boiling point of 200° C./0.02 mbar is obtained as a colorless oil.

reactant | 2-iodophenol | 25 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | 4-bromobutyric acid ethyl ester | 22.16 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | cesium carbonate | 74 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2-iodophenoxy)butyric acid ethyl ester | 24.2 g | C(C)OC(CCCOC1=C(C=CC=C1)I)=O | C12H15IO3
